US07718683B2
A 25 mL scintillation vial was charged with oxazole-4-carboxylic acid methylamide (132 mg, 1.0 mmol), POCl3 (0.27 mL, 3 mmol), pyridine (0.48 mL, 6 mmol) and CH3CN (10 mL). The vial was sealed, heated to 40° C., and stirred for four hours. The volatiles were then evacuated in vacuo and to the residue was added 4-tert-butyl-N-(4-chloro-5-fluoro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide (400 mg, 1.0 mmol), diisopropylamine (2.0 mL), and dioxane (2.0 mL). The vial was sealed, heated to 130° C., and stirred for two hours. The volatiles were then removed in vacuo, and the residue was purified via automated silica gel chromatography and then HPLC to afford 4-tert-butyl-N-[4-chloro-5-fluoro-2-(4-methyl-5-oxazol-4-yl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide as a white powder: 1H NMR (400 MHz, CDCl3) δ 9.72 (s, 1H), 8.48 (d, 1H), 8.04 (d, 1H), 7.67 (d, 1H), 7.50 (d, 2H), 7.33 (d, 1H), 7.3 (d, 2H), 3.59 (s, 3H), 1.23 (s, 9H), MS (ES) M+H expected 490.1, found 490.0.

reactant | oxazole-4-carboxylic acid methylamide | 1.0 mmol, 132 mg | CNC(=O)C=1N=COC1 | C5H6N2O2
reactant | POCl3 | 3 mmol, 0.27 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 6 mmol, 0.48 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-tert-butyl-N-(4-chloro-5-fluoro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide | 1.0 mmol, 400 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C(=O)NN | C17H19ClFN3O3S
reactant | diisopropylamine | 2.0 mL | C(C)(C)NC(C)C | C6H15N
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-tert-butyl-N-[4-chloro-5-fluoro-2-(4-methyl-5-oxazol-4-yl-4H-[1,2,4]triazol-3-yl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C1=NN=C(N1C)C=1N=COC1 | C22H21ClFN5O3S
